US08293923B2
Step 4: 5-((tert-butyldimethylsilyloxy)methyl)-1-cyclohexyl-1H-benzo[d]imidazol-2-amine
To a solution of (2-Amino-1-cyclohexyl-1H-benzoimidazol-5-yl)methanol (0.650 g, 0.00265 mol) and 1H-Imidazole (0.4149 g, 0.006094 mol) in N,N-Dimethylformamide (10 mL) was added tert-Butyldimethylsilyl chloride (0.4393 g, 0.002914 mol) and the mixture stirred for 1 hour. The mixture was diluted with ethyl acetate, washed with saturated socium bicarbonate, dried and concentrated. The residue was taken up in methylene chloride containing 0.1% triethylamine and purified by flash chromatography with a gradient of from 0 to 10 percent methanol. The product fractions were concentrated to give 539 mg of the product.

reactant | (2-Amino-1-cyclohexyl-1H-benzoimidazol-5-yl)methanol | 0.00265 mol, 0.650 g | NC1=NC2=C(N1C1CCCCC1)C=CC(=C2)CO | C14H19N3O
reactant | 1H-Imidazole | 0.006094 mol, 0.4149 g | N1C=NC=C1 | C3H4N2
reactant | tert-Butyldimethylsilyl chloride | 0.002914 mol, 0.4393 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-((tert-butyldimethylsilyloxy)methyl)-1-cyclohexyl-1H-benzo[d]imidazol-2-amine | 539 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC2=C(N(C(=N2)N)C2CCCCC2)C=C1 | C20H33N3OSi
